US07053089B2
To a solution of benzyl 4-fluoro-4-{[(methylsulfonyl)oxy]methyl}piperidine-1-carboxylate (1.3 g, 3.7 mmol) in DMF (10 mL) at RT was added NaN3 (2.4 g, 37.0 mmol). The reaction mixture was heated to 110° C. and stirred for 60 h, cooled and partitioned between EtOAc and H2O. The organic layer was dried over Na2SO4, filtered, concentrated and purified on silica gel (10:1 to 1:2 hexanes:EtOAc) to give benzyl 4-(azidomethyl)-4-fluoropiperidine-1-carboxylate. (0.86 g, 80% yield). M.S. (M+1): 293

reactant | benzyl 4-fluoro-4-{[(methylsulfonyl)oxy]methyl}piperidine-1-carboxylate | 3.7 mmol, 1.3 g | FC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)COS(=O)(=O)C | C15H20FNO5S
reactant | NaN3 | 37.0 mmol, 2.4 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | benzyl 4-(azidomethyl)-4-fluoropiperidine-1-carboxylate | 80% yield | N(=[N+]=[N-])CC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)F | C14H17FN4O2
